US07893056B2
(4aR,8aS)-Octahydro-2,3-quinoxalinedione (4.67 g, 27.8 mmol) was added portion wise to 1M LAH (111 mL, 111 mmol) in diethyl ether (30 mL). The reaction was allowed to heated to reflux and stirred at reflux for 4 h. After cooling to room temperature, the reaction was quenched by the sequential addition of H2O (4.2 mL), 15% NaOH (4.2 mL), and H2O (12.6 mL). The mixture was stirred for 0.5 h, and the solids were filtered off and washed with excess EtOAc. The combined filtrates were concentrated under reduced pressure to provide (4aR,8aS)-decahydroquinoxaline as a white solid (3.6 g, 92%). LCMS: (M+H)+: 141.1.

reactant | (4aR,8aS)-Octahydro-2,3-quinoxalinedione | 27.8 mmol, 4.67 g | N1C(C(N[C@@H]2CCCC[C@H]12)=O)=O | C8H12N2O2
reactant | LAH | 111 mmol, 1M, 111 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | (4aR,8aS)-decahydroquinoxaline | 3.6 g, 92% | N1CCN[C@@H]2CCCC[C@H]12 | C8H16N2
